US09382243B2
(4aR,7R,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-amine
To a stirred solution of (4aR,7S,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-yl methanesulfonate (109 mg, 0.347 mmol) under nitrogen in anhydrous DMF (2.0 mL) was added sodium azide (90 mg, 1.387 mmol). The mixture was heated to 80° C. After 24 hours, the mixture was concentrated under reduced pressure. The resultant oil was chromatographed using a Biotage™ 10 g silica gel cartridge eluted with 0-50% EtOAc in 1:1 Hexane/DCM over 20 column volumes. The product fractions were combined and concentrated under reduced pressure. The resultant white solid (67 mg, 0.256 mmol) was dissolved in anhydrous THF (2.0 mL) under nitrogen and a IM solution of trimethylphosphine (0.51 mL, 0.51 mmol) was added. The mixture was allowed to stir at room temperature for 40 minutes until the azide was consumed, then saturated aqueous ammonium hydroxide (0.5 mL) was added. After stirring for 30 minutes, the mixture was concentrated under reduced pressure and dried under high vacuum. The resultant residue was dissolved in acetonitrile (2 mL), frozen at −78° C., and lyophilized to dryness to provide the title compound as a white solid. LC-MS: calculated for C13H17NO3 235.12, observed m/e: 236.19 (M+H)+ (Rt 0.45/4 min).

reactant | (4aR,7S,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-yl methanesulfonate | 0.347 mmol, 109 mg | CS(=O)(=O)O[C@H]1C[C@@H]2OC(OC[C@H]2OC1)C1=CC=CC=C1 | C14H18O6S
reactant | sodium azide | 1.387 mmol, 90 mg | [N-]=[N+]=[N-].[Na+]
reactant | trimethylphosphine | 0.51 mmol, 0.51 mL | CP(C)C | C3H9P
reactant | azide | [N-]=[N+]=[N-]
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | (4aR,7R,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-amine | C1(=CC=CC=C1)C1OC[C@@H]2[C@@H](O1)C[C@H](CO2)N | C13H17NO3
